US05350748
Sodium thiomethoxide (93 mg, 1.32 mmol) is added to a suspension of 3-chloro-5-methoxybenzo[b]thiophene-2-carboxamide (250 mg, 1.03 mmol) in 2 mL of DMF. After 1 hour, an additional amount of sodium thiomethoxide (13 mg) is added. The reaction mixture is diluted with ethyl acetate and washed with 1N NaOH, 1N HCl, water, and brine. The organic layer is dried over MgSO4. Filtration followed by concentration in vacuo and recrystallization from ethyl acetate:hexane gives 5-methoxy-3-(methylthio)benzo[b]thiophene-2-carboxamide in 72% yield; mp=171°-173° C.

reactant | Sodium thiomethoxide | 1.32 mmol, 93 mg | C[S-].[Na+]
reactant | 3-chloro-5-methoxybenzo[b]thiophene-2-carboxamide | 1.03 mmol, 250 mg | ClC=1C2=C(SC1C(=O)N)C=CC(=C2)OC | C10H8ClNO2S
reactant | sodium thiomethoxide | 13 mg | C[S-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-3-(methylthio)benzo[b]thiophene-2-carboxamide | 72% yield | COC1=CC2=C(SC(=C2SC)C(=O)N)C=C1 | C11H11NO2S2
